US04766128
At -20° C., 19.6 g of 3-(9,10-didehydro-6-methyl-8α-ergolinyl)-1,1-diethylurea is dissolved in 80 ml of trifluoroacetic acid, and 8 portions of respectively 500 mg of sodium borohydride are added at intervals of 3-4 minutes. The mixture is then poured on ice, made alkaline under ice cooling with 90 ml of 26% ammonia solution, and extracted with methylene chloride. The organic phase is dried, concentrated, and chromatographed on silica gel with methylene chloride/methanol, thus isolating 10.6 g of 3-(9,10-didehydro-2,3-dihydro-6-methyl-8α-ergolinyl)-1,1-diethylurea as a mixture of isomers of the 3α and 3β-H-compounds. Crystallization from ethyl acetate yields 6.5 g of the 3β-H-compound.

reactant | 3-(9,10-didehydro-6-methyl-8α-ergolinyl)-1,1-diethylurea | 19.6 g | CN1C[C@H](C=C2C=3C=CC=C4NC=C(C[C@@H]12)C34)NC(N(CC)CC)=O | C20H26N4O
reactant | sodium borohydride | 500 mg | [BH4-].[Na+]
reactant | ammonia | 90 ml | N | H3N
solvent | trifluoroacetic acid | 80 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(9,10-didehydro-2,3-dihydro-6-methyl-8α-ergolinyl)-1,1-diethylurea | 10.6 g | CN1C[C@H](C=C2C=3C=CC=C4NCC(C[C@@H]12)C34)NC(N(CC)CC)=O | C20H28N4O
